US04666504
4-Carboxy-1-(3-fluorophenyl)-5-pyrazolecarboxamide.
A 5.5 g. portion of ethyl 5-cyano-1-(3-fluorophenyl)-4-pyrazolecarboxylate and 4.7 g. of potassium hydroxide were dissolved in 100 ml. of ethanol at the reflux temperature and the mixture was stirred at that temperature for 2 hours. The mixture was then diluted to 350 ml. with cold water, and was heated slightly to obtain a solution which was made acid with concentrated hydrochloric acid. The product was precipitated by adding small amounts of ice, and the precipitated product was then collected by filtration and crystallized from ethanol-water to obtain 3.6 g. of the desired product, m.p. 215°-216°, having the following elemental analysis.

reactant | ethyl 5-cyano-1-(3-fluorophenyl)-4-pyrazolecarboxylate | C(#N)C1=C(C=NN1C1=CC(=CC=C1)F)C(=O)OCC | C13H10FN3O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-Carboxy-1-(3-fluorophenyl)-5-pyrazolecarboxamide | C(=O)(O)C=1C=NN(C1C(=O)N)C1=CC(=CC=C1)F | C11H8FN3O3
